US04110533
(di) The crude 2-[4-(p-toluenesulphonylthio)-3-phenoxyacetamido-2-oxoazetidin-1-yl]-3-methylenebutyric acid p-nitrobenzyl ester, obtained according to Example 1.cvii), is dissolved in 20 ml of methyl acetate and ozonised at -70° C until no further starting material is present, according to a thin layer chromatogram. A stream of nitrogen is then passed through the solution and the latter is warmed to 0°-50° C. A solution of 300 mg of sodium bisulphite in 5 ml of water is added and the mixture is stirred for about 5 minutes until no further ozonide can be detected with potassium iodide/starch paper. The mixture is diluted with ethyl acetate, the aqueous phase is separated off, and the organic phase is washed with water, dried over magnesium sulphate and freed from solvent in vacuo. The crude product is dissolved in 3 ml of methylene chloride and 15 ml of toluene are added. The precipitate is filtered off and the filtrate is evaporated in vacuo. The residue is recrystallised from methanol and gives 2 -[4-(p-toluenesulphonylthio)-3-phenoxyacetamido-2-oxoazetidin-1-yl)- 3-hydroxycrotonic acid p-nitrobenzyl ester of melting point 159- 160° C.

reactant | 2-[4-(p-toluenesulphonylthio)-3-phenoxyacetamido-2-oxoazetidin-1-yl]-3-methylenebutyric acid p-nitrobenzyl ester | [N+](=O)([O-])C1=CC=C(COC(C(C(C)=C)N2C(C(C2SS(=O)(=O)C2=CC=C(C=C2)C)NC(COC2=CC=CC=C2)=O)=O)=O)C=C1 | C30H29N3O9S2
reactant | sodium bisulphite | 300 mg | S([O-])(O)=O.[Na+]
solvent | methyl acetate | 20 ml | C(C)(=O)OC | C3H6O2
solvent | water | 5 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2 -[4-(p-toluenesulphonylthio)-3-phenoxyacetamido-2-oxoazetidin-1-yl)- 3-hydroxycrotonic acid p-nitrobenzyl ester | [N+](=O)([O-])C1=CC=C(COC(\C(=C(\C)/O)\N2C(C(C2SS(=O)(=O)C2=CC=C(C=C2)C)NC(COC2=CC=CC=C2)=O)=O)=O)C=C1 | C29H27N3O10S2
